US07713979B2
3-(2,4-Dichloro-benzyl)-1-(cis-4-t-butyldimethylsilyloxy-cyclohexyl)-pyrrolidin-2-one
Dissolve 3-(2,4-dichloro-benzyl)-1-(cis-4-hydroxy-cyclohexyl)-pyrrolidin-2-one (0.5 g, 1.46 mmol) in dichloromethane (15 mL), cool to 0° C., and add triethylamine (0.26 mL, 1.90 mmol) and t-butyldimethylsilyl trifluoromethanesulfonate (0.40 mL, 1.75 mmol). After 16 h, wash the mixture with 1 N HCl, saturated aqueous NaHCO3 and brine, dry over Na2SO4 and evaporate the solvent. Purify the residue by column chromatography on silica gel (eluting 0% to 40% ethyl acetate in hexanes) to give the desired intermediate (0.54 g, 81%).

reactant | 3-(2,4-dichloro-benzyl)-1-(cis-4-hydroxy-cyclohexyl)-pyrrolidin-2-one | 1.46 mmol, 0.5 g | ClC1=C(CC2C(N(CC2)[C@@H]2CC[C@@H](CC2)O)=O)C=CC(=C1)Cl | C17H21Cl2NO2
reactant | triethylamine | 1.90 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyl trifluoromethanesulfonate | 1.75 mmol, 0.40 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-(2,4-Dichloro-benzyl)-1-(cis-4-t-butyldimethylsilyloxy-cyclohexyl)-pyrrolidin-2-one | 0.54 g, 81% | ClC1=C(CC2C(N(CC2)[C@@H]2CC[C@@H](CC2)O[Si](C)(C)C(C)(C)C)=O)C=CC(=C1)Cl | C23H35Cl2NO2Si
